US05929117
A. 3,4-Dimethoxy-4'-methylbenzophenone
The title compound was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (3.9 mL, 28 mmol), aluminum chloride (4.1 g, 31 mmol) and 4-methylbenzoyl chloride (4.6 mL, 29 mmol) with a reaction time of 6 hours at room temperature. The crude mixture was purified by flash column chromatography (silica gel, 2% ethyl acetate/methylene chloride) to afford 4.22 g (59%) of the product as a white solid: mp 121.5-122° C.; 1H NMR (CDCl3) δ 7.70-7.67 (d, J=8 Hz, 2H), 7.48-7.26 (m,4H), 6.91-6.88 (d, J=8.3 Hz, 1H), 6.96 (s, 3H), 3.94 (s, 3H), 2.44 (s, 3H); 13C NMR (CDCl3) δ 195.1, 152.6, 148.8, 142.4, 135.3, 130.3, 129.8, 128.7, 125.0, 112.0, 109.6, 55.9, 55.8, 21.4; Anal. Calcd for C16H16O3. Theoretical: C, 74.98; H, 6.29. Found: C, 74.84; H, 6.43.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 28 mmol, 3.9 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 31 mmol, 4.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methylbenzoyl chloride | 29 mmol, 4.6 mL | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | 3,4-Dimethoxy-4'-methylbenzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)C)C=CC1OC | C16H16O3
